US06008243
According to the procedure described in Example 15(a) for the preparation of N-(1(S)-benzyl-2-hydroxyethyl)-3(S)-(2-biphenyl-4-yl-furan-5-yl)succinamic acid, N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3-(2-(biphenyl-4-yl)-furan-5-yl)succinamic acid t-butyl ester was deprotected with trifluoroacetic acid in CH2Cl2 after 1 hour. Trituration of crude with MTBE/hex provided in 48% yield N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3-(2-(biphenyl-4-yl)-furan-5-yl)succinamic acid as a rust-colored amorphous solid. 1H NMR (CD3CN): δ 7.75 (d, 2H, J=8.5 Hz), 7.69-7.66 (m, 4H), 7.47 (t, 2H, J=7.2 Hz), 7.37 (t, 1H, J=7.2 Hz), 6.91 (d, 1H, J=7.7 Hz), 6.77 (d, 1H, J=3.3 Hz), 6.56 (bs, 1H), 6.39 (d, 1H, J=3.3 Hz), 4.24-4.19 (m, 1H), 4.12 (d, 1H, J=9.2 Hz), 3.17-3.08 (m, 1H), 2.82 (dd, 1H, J=5.0, 17.1 Hz), 2.67 (d, 3H, J=4.8 Hz), 0.86 (s, 9H). HRFABMS: Calculated for C27H31N2O5 (M+H+) 463.2233. Found: 463.2236.

reactant | N-(1(S)-benzyl-2-hydroxyethyl)-3(S)-(2-biphenyl-4-yl-furan-5-yl)succinamic acid | C(C1=CC=CC=C1)[C@@H](CO)NC([C@@H](CC(=O)O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H27NO5
reactant | N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3-(2-(biphenyl-4-yl)-furan-5-yl)succinamic acid t-butyl ester | C(C)(C)(C)OC(CC(C(=O)N[C@@H](C(C)(C)C)C(NC)=O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C31H38N2O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3-(2-(biphenyl-4-yl)-furan-5-yl)succinamic acid | 48% yield | CC([C@@H](C(NC)=O)NC(C(CC(=O)O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C | C27H30N2O5
